US04091040
According to this invention, a method for producing trimethylolmethane in yields of over 50 percent based on the unrecovered amount of the starting compound, diethyl malonate, is provided. The method involves (1) the reaction of diethyl malonate with ethyl orthoformate to produce ethyl ethoxymethylenemalonate; (2) the reaction of ethyl ethoxymethylenemalonate with sodium ethoxide to produce diethyl diethoxymethylmalonate; (3) the reaction of diethyl diethoxymethylmalonate with lithium aluminum hydride to produce 3,3-diethoxy-2-(hydroxymethyl)-1-propanol; (4) the acidification of a solution of the propanol to a pH of 2.5; and (5) the reaction of the unrecovered product produced by acidification with H2 in the presence of a Ru-C catalyst to produce the desired trimethylol methane.

reactant | diethyl diethoxymethylmalonate | C(C)OC(OCC)C(C(=O)OCC)C(=O)OCC | C12H22O6
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 3,3-diethoxy-2-(hydroxymethyl)-1-propanol | C(C)OC(C(CO)CO)OCC | C8H18O4
